US07772227B2
To a solution of 2-cyclopentyl-1,2,3,4-tetrahydroquinoline (4.0 g, 20 mmol) in tetrahydrofuran (15 ml) was added ethyl bromopyruvate (˜90% purity; 1.38 ml, 9.9 mmol) and the reaction stirred for 15 h. The resulting precipitate was filtered and washed with tetrahydrofuran (20 ml). The filtrate was evaporated in vacuo. The resulting residue was dissolved in tetrahydrofuran (10 ml) and 2-methoxyethanol (10 ml) and the solution added dropwise to a refluxing solution of magnesium (II) chloride (1.05 g, 11 mmol) in 2-methoxyethanol (10 ml). The reaction mixture was refluxed for 2 h and then a further portion of magnesium (II) chloride (1.05 g, 11 mmol) added and refluxing continued overnight. The reaction was cooled and the solvent removed in vacuo. The resulting brown oil was dissolved in dichloromethane (150 ml) and washed with 2 M HCl (50 ml), saturated potassium carbonate (50 ml) and brine (50 ml). The organics were dried (MgSO4), filtered and the solvent removed in vacuo. The resulting oil was purified by flash chromatography using 33-67% (v/v) dichloromethane in heptane to give 4-cyclopentyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid ethyl ester (1.45 g, 4.9 mmol).

reactant | 2-cyclopentyl-1,2,3,4-tetrahydroquinoline | 20 mmol, 4.0 g | C1(CCCC1)C1NC2=CC=CC=C2CC1 | C14H19N
reactant | ethyl bromopyruvate | 9.9 mmol | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | magnesium (II) chloride | 11 mmol, 1.05 g | [Cl-].[Mg+2].[Cl-]
reactant | magnesium (II) chloride | 11 mmol, 1.05 g | [Cl-].[Mg+2].[Cl-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
solvent | 2-methoxyethanol | 10 ml | COCCO | C3H8O2
product | 4-cyclopentyl-5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinoline-1-carboxylic acid ethyl ester | 4.9 mmol, 1.45 g | C(C)OC(=O)C1=CN2C(CCC3=CC=CC1=C23)C2CCCC2 | C19H23NO2
